US04851153
A mixture of 100 g of sebacic acid, 116 g of a 48% aqueous solution of caustic potash and 1171 g of water was subjected to reaction conducted in the same manner as illustrated in Example 10 to obtain an aqueous solution of potassium sebacate having a pH value of 10.1 and containing 10.1% by weight of a solid matter. To this aqueous solution was added an aqueous solution of 177 g of silver nitrate in 200 g of water to effect a double decomposition reaction in the same manner as illustrated in Example 10 whereby 195 g of silver sebacate was obtained which had a silver content of 49.8% by weight.

reactant | sebacic acid | 100 g | C(CCCCCCCCC(=O)O)(=O)O | C10H18O4
reactant | caustic potash | [OH-].[K+]
solvent | water | 1171 g | O | H2O
product | potassium sebacate | C(CCCCCCCCC(=O)[O-])(=O)[O-].[K+].[K+] | InChI=1S/C10H18O4.2K/c11-9(12)7-5-3-1-2-4-6-8-10(13)14;;/h1-8H2,(H,11,12)(H,13,14);;/q;2*+1/p-2
